US07291635B2
To a solution of the title B compound in Example 9, 2-(2,4-dimethoxybenzyl)-1,1-dioxo-1,2,5-thiadiazolidin-3-one (2.0 g, 7.0 mmol) and 4-hydroxymethyl-benzoic acid benzyl ester (2.54 g, 10.5 mmol) in THF (50 mL) is added triphenylphosphine (3.67 g, 14 mmol) and the mixture is stirred until dissolved. The reaction is cooled to 0° C. and diethyl azodicarboxylate (2.20 mL, 14 mmol) dissolved in THF (20 mL) is added dropwise. The reaction is stirred for 16 h, while allowing to warm to RT, then concentrated. The residue is taken up in CH2Cl2, and chromatographed in two portions on a 110 g silica gel RediSep column (Isco, Inc.) with a 30 mL/min gradient elution of 0:100 (EtOAc:hexane) to 5:95 over 10 min. Fractions containing product are combined and concentrated to yield 4-[5-(2,4-dimethoxy-benzyl)-1,1,4-trioxo-1,2,5-thiadiazolidin-2-ylmethyl]-benzoic acid benzyl ester as a white solid.

reactant | 2-(2,4-dimethoxybenzyl)-1,1-dioxo-1,2,5-thiadiazolidin-3-one | 7.0 mmol, 2.0 g | COC1=C(CN2S(NCC2=O)(=O)=O)C=CC(=C1)OC | C11H14N2O5S
reactant | 4-hydroxymethyl-benzoic acid benzyl ester | 10.5 mmol, 2.54 g | C(C1=CC=CC=C1)OC(C1=CC=C(C=C1)CO)=O | C15H14O3
reactant | triphenylphosphine | 14 mmol, 3.67 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 14 mmol, 2.20 mL | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 4-[5-(2,4-dimethoxy-benzyl)-1,1,4-trioxo-1,2,5-thiadiazolidin-2-ylmethyl]-benzoic acid benzyl ester | C(C1=CC=CC=C1)OC(C1=CC=C(C=C1)CN1S(N(C(C1)=O)CC1=C(C=C(C=C1)OC)OC)(=O)=O)=O | C26H26N2O7S
